US05489598
A solution of 0.25 g of 5-(2-aminophenyl)-2,4-dihydro-4-ethyl-1H-[1,2,4]triazol-3-thione and 0.13 mL of acetic anhydride in 1.5 mL of tetrahydrofuran and 0.7 mL of water was stirred at 24° C. for 4 hours. The solution was diluted with 25 mL of ethyl acetate, washed with brine, and dried over MgSO4. The mixture was filtered and the filtrate was concentrated to dryness and then dissolved in 20 mL of 1N sodium hydroxide. The aqueous mixture was extracted twice with 20 mL portions of ethyl acetate. The extracts were combined, washed with brine, dried, and concentrated to dryness to give a solid. The solid was triturated with ethyl acetate:hexane (1:1 v/v) to give 140 mg of 5-(2-acetamidophenyl)-2,4-dihydro-4-ethyl-1H-[1,2,4]triazol-3-thione, mp 193°-194° C.

reactant | 5-(2-aminophenyl)-2,4-dihydro-4-ethyl-1H-[1,2,4]triazol-3-thione | 0.25 g | NC1=C(C=CC=C1)C1N(C(NN1)=S)CC | C10H14N4S
reactant | acetic anhydride | 0.13 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | water | 0.7 mL | O | H2O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 5-(2-acetamidophenyl)-2,4-dihydro-4-ethyl-1H-[1,2,4]triazol-3-thione | 140 mg | C(C)(=O)NC1=C(C=CC=C1)C1N(C(NN1)=S)CC | C12H16N4OS
